US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-vinylbenzimidazol-1-yl]pyrimidine
The title compound was prepared from 44 mg of 2-[(S)-1-phenylethylamino]-4-[5-iodobenzimidazol-1-yl]pyrimidine, 87 μL tributylstannyl ethylene and 1.15 mg Pd(PPh3)4 using the procedure described in EXAMPLE 273 to give 8.5 mg of the title compound. RF: 0.45 (5% MeOH in CH2Cl2). 1H NMR (500 MHz, 1:1 CD3OD/CDCl3): δ 1.59 (d, J=6.8 Hz, 3H), 5.13 (m, 1H), 5.24 (d, J=11.2 Hz, 1H), 5.76 (d, J=17.4 Hz, 1H), 6.79 (dd, J=17.6, 11 Hz, 1H), 6.87 (d, J=5.7 Hz, 1H), 7.21 (br s, J=7.3 Hz, 1H), 7.27-7.34 (m, 3H), 7.41 (br s, J=7.3 Hz, 2H), 7.6-7.8 (m, 1H), 7.67 (br s, 1H), 8.31 (br s, J=5.7 Hz, 1H), 8.55-8.7 (m, 1H). Mass Spectrum (CH3CN-TFA-NH4HCO2-ESI): 342.3 (M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-[5-iodobenzimidazol-1-yl]pyrimidine | 44 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)I | C19H16IN5
reactant | tributylstannyl ethylene | 87 μL | C(CCC)[Sn](CCCC)(CCCC)C=C
catalyst | Pd(PPh3)4 | 1.15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[(S)-1-Phenylethylamino]-4-[5-vinylbenzimidazol-1-yl]pyrimidine | 8.5 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C=C | C21H19N5
